Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ lady with a PMH significant for
recurrent metastatic ovarian cancer who is admitted from the ED
with worsening abdominal pain.

Patient was admitted ___ with abdominal pain, during which time
exlap was performed with lysis of adhesions, lymph node biopsy,
and noted diffuse peritoneal disease. She initially had relief 
of
pain following the surgery, but pain returned and she was again
admitted on ___. Since that admission, she has
had her typical baseline ___ lower abdominal pain, including ED
visit on ___.  However, yesterday during C2D1 Carboplatin, she
developed progressive epigastric pain unlike her prior pain. 
Pain
is cramping/stabbing and got up to ___. Due to her symptoms, 
she
presented to the ED.

In the ED, initial VS were pain 8, T 97.3, HR 84, BP 123/66, RR
18, O2 100%RA.  Labs were notable for: Trop negative x1 Nl chem
10. nl LFTs except ALP 131. WBC 6.1, HCT 25.4, PLT 156. Nl UA.
Lactate 2.4  Imaging included:  CT a/p with no acute process,
stable left pelvic soft tissue mass and right sub diaphragm
nodularity.  Treatments received: 2LNS, 4mg IV morphine x2,
miralax, Benadryl, and ketorolac/tylenol x1.
  
On arrival to the floor, patient reports epigastric pain as
above. No recent fevers or chills. No SOB, cough. Does report
left sided pleuritic pain since CT scan. No N/V or diaphoresis.
She has a poor appetite, but tolerates po well. Had diarrhea on
___ x3 following ED visit. No BM since.  

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.
 
Past Medical History:
___ presented at ___ with acute RLQ
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst
removed with intra-operative rupture, by report there was no
ovarian surface involvement by tumor. ___ path review: high
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with
TAH/BSO, pelvic tumor resection, total pelvic lymphadenectomy,
para-aortic LN resection, infracolic omemtectomy, peritoneal
biopsies: ovarian serous carcinoma, no positive LNs, right 
pelvic
sidewall positive for carcinoma, grade 3, with positive 
washings,
thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ BRCA negative
- ___ rising CA125
- ___ CT scan shows disease recurrence- seen by Dr. ___ possible surgical resection
- ___ C1D1 Carboplatin
- ___: C2D1 Carboplatin

PAST MEDICAL HISTORY: 
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
 
Social History:
___
Family History:
FAMILY HISTORY (per OMR):
- paternal grand-aunt with breast ca in her ___
- maternal great-uncle with colon ca
- paternal great grandmother with ovarian ca
 
Physical Exam:
PHYSICAL EXAM:  
VS: T 98.6  HR 90  BP 97/50  RR 18  SAT  100% O2 on RA
GENERAL: Pleasant, lying in bed comfortably
HEENT: Anicteric, PERRL, OP clear, No LAD
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi
ABD: Normal bowel sounds, soft, TTP epigastrum, nondistended, no
hepatomegaly, no splenomegaly, no rebound or guarding
EXT: Warm, well perfused, no lower extremity edema. Reproducible
left chest pain with left arm abduction.
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact
SKIN: No significant rashes
 
Pertinent Results:
IMAGING
=======
___ (PA & LAT)   
Comparison to ___.  In the interval, the patient has 
received a right
Port-A-Cath.  No complications, notably no pneumothorax.  The 
tip of the
device projects over the cavoatrial junction.  No pleural 
effusions.  Normal
size of the heart.

___ ABD & PELVIS WITH CONTRAST
1. No acute intra-abdominal or pelvic process.
2. Stable left pelvic sidewall soft tissue mass and right 
subdiaphragmatic
nodularity.

MICRO:
======
___ CULTURE-FINAL
___ CULTUREBlood Culture, 
Routine-PENDING
___ CULTUREBlood Culture, 
Routine-PENDING

BLOOD WORK:
==========
___ 10:00AM BLOOD WBC-3.1* RBC-3.06* Hgb-8.4* Hct-26.2* 
MCV-86 MCH-27.5 MCHC-32.1 RDW-16.4* RDWSD-48.1* Plt ___
___ 05:12AM BLOOD WBC-2.2* RBC-3.20* Hgb-8.6* Hct-27.0* 
MCV-84 MCH-26.9 MCHC-31.9* RDW-16.2* RDWSD-49.4* Plt ___
___ 01:45AM BLOOD Neuts-85.1* Lymphs-8.4* Monos-5.8 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-5.17# AbsLymp-0.51* 
AbsMono-0.35 AbsEos-0.00* AbsBaso-0.00*
___ 05:12AM BLOOD Neuts-60.3 ___ Monos-6.8 Eos-0.9* 
Baso-0.5 AbsNeut-1.34* AbsLymp-0.70* AbsMono-0.15* AbsEos-0.02* 
AbsBaso-0.01
___ 01:45AM BLOOD ___ PTT-37.7* ___
___ 01:45AM BLOOD Glucose-94 UreaN-10 Creat-0.7 Na-139 
K-4.0 Cl-103 HCO3-25 AnGap-15
___ 05:12AM BLOOD Glucose-94 UreaN-11 Creat-0.8 Na-137 
K-3.9 Cl-98
___ 10:00AM BLOOD ALT-25 AST-18 AlkPhos-128* TotBili-<0.2
___ 05:30AM BLOOD ALT-18 AST-13 AlkPhos-101 TotBili-0.2
___ 01:45AM BLOOD cTropnT-<0.01
___ 01:45AM BLOOD Lipase-25
___ 10:00AM BLOOD CA125-18
___ 02:02AM BLOOD Lactate-2.4*
___ 07:29AM BLOOD Lactate-1.___ w/ recently diagnosed recurrent metastatic high grade serous 
ovarian carcinoma w/ diffuse peritoneal disease (initially Stage 
IIc s/p total abdominal hysterectomy, b/l salpingo-oophorectomy, 
pelvic and paraaortic lymph node dissection, and omentectomy in 
___, who presents with acute on chronic abdominal pain.

# Abdominal Pain
# Peritoneal malignant disease
# Constipation
Etiology of abdominal pain is most likely due to extensive 
peritoneal malignant
disease, however degree of pain seems to be out of proportion to 
burden of disease, and pt has multiple recurrent ED and clinic 
visits/admits for abdominal pain without acute process found on 
imaging or labs. Admission CT did not reveal any acute process. 
Lipase/LFTs reassuring. Pain improved w/ fentanyl patch increase 
from 12mcg to 25 mcg, however suspect significant anxiety 
component/driver which outpt providers echoed. Another 
contributor is constipation; pt goes through cycles at home 
where she won't take bowel regimen (forgets bowel meds) and then 
gets constipated and 5 days later takes a lot of laxatives and 
has profound diarrhea, which exhausts her. Fatigue and low 
energy is the result, see below, also prompting admissions and 
ED visit. Pychiatry and SW involved, agree large anxiety 
component to trigger/underlying abd pain. Instructed pt to take 
200mg BID Colace (doesn't like senna, causes cramps), daily 
miralax, and every other day dulcolax. If no BM, can use mg 
citrate prn or enemas. Increased fentanyl as above, restarted 
simethicone and bentyl, contd home morphine ___ and Tylenol and 
amitriptyline qhs which may help w/ the cramps, and PPI. Pain 
improved on DC. Per recommendation of oncology team, will refer 
pt to GI for further workup/management of severe abd pain out of 
proportion to findings on labs/imaging and for management of 
alternating constipation and loose stools as noted.
I reviewed the PMP for this patient. No other sufficient 
non-narcotic alternative for her metastatic peritoneal disease 
and abd pain.

# Anxiety - significant contributor to symptomatology most 
likely. pt does very well when providers in the room and having 
social interactions, but feels parents don't understand her or 
that her pain is real. Arranged for SW to see pt at home via 
___. SW following in house along w/ palliative care.

# Ovarian Cancer, Metastatic, Recurrent She is now on C2 of 
carboplatin every 3 weeks. Anticipate blood counts may be 
dropping due to recent chemo. Dr. ___ 
following while inpatient.

# Profound fatigue - suspect chemo effect, blood count improved 
today though anemia may be contributor. TSH WNL ___. Pt not 
orthostatic at time of discharge. Suspect however that cycle of 
constipation then diarrhea then constipation due to bowel 
regimen discrepancies are contributing to sense of feeling 
drained. Blood counts stably low, no e/o bleeding.

# Pancytopenia
# Anemia
# Neutropenia: Afebrile. ANC 1190. C2 carboplatin. Subacute 
progression of anemia since restarting chemo therapy. 

# Hypothyroid;
- Con't home levothyroxine

# Depression:
- Continued home amitriptyline, aripiprazle, and Cymbalta 
- Continued home At___

# Nausea:
- Zofran prn nausea

# GERD:
- Continued home omeprazole

# HTN:
- Losartan recently discontinued, remained normotensive

EMERGENCY CONTACT HCP: ___ (Mom) ___  

Greater than 30 minutes were spent in planning and execution of 
this discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fentanyl Patch 12 mcg/h TD Q72H 
2. Acetaminophen ___ mg PO Q6H:PRN pain 
3. Amitriptyline 20 mg PO QHS insomnia 
4. ARIPiprazole 4 mg PO QHS 
5. DULoxetine 120 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Gabapentin 600 mg PO QHS 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Loratadine 10 mg PO DAILY 
10. Lorazepam 0.5-1 mg PO QHS:PRN Anxiety 
11. Omeprazole 40 mg PO DAILY 
12. Ondansetron 8 mg PO Q8H:PRN nausea 
13. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
14. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
15. Ibuprofen 600 mg PO Q6H:PRN pain 
16. Prochlorperazine 10 mg PO Q8H:PRN nausea 
17. Morphine Sulfate ___ 7.5-15 mg PO Q4H:PRN pain 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO EVERY OTHER DAY 
RX *bisacodyl 5 mg 2 tablet(s) by mouth every other day Disp 
#*40 Tablet Refills:*0 
2.  DICYCLOMine 20 mg PO TID:PRN abdominal pain 
RX *dicyclomine 20 mg one tablet(s) by mouth three times a day 
as needed Disp #*45 Tablet Refills:*0 
3.  Magnesium Citrate 300 mL PO DAILY:PRN constipation 
RX *magnesium citrate  300 mL by mouth if constipated Refills:*0 

4.  Simethicone 40-80 mg PO QID:PRN bloating 
RX *simethicone 125 mg one tablet by mouth four times daily as 
needed Disp #*120 Capsule Refills:*0 
5.  Docusate Sodium 200 mg PO BID  
6.  Fentanyl Patch 25 mcg/h TD Q72H 
RX *fentanyl 25 mcg/hour 25 mcg patch every 72 hours Disp #*10 
Patch Refills:*0 
7.  Acetaminophen ___ mg PO Q6H:PRN pain  
8.  Amitriptyline 20 mg PO QHS insomnia  
9.  ARIPiprazole 4 mg PO QHS  
10.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY  
11.  DULoxetine 120 mg PO DAILY  
12.  Gabapentin 600 mg PO QHS  
13.  Ibuprofen 600 mg PO Q6H:PRN pain  
14.  Levothyroxine Sodium 50 mcg PO DAILY  
15.  Loratadine 10 mg PO DAILY  
16.  Lorazepam 0.5-1 mg PO QHS:PRN Anxiety  
17.  Morphine Sulfate ___ 7.5-15 mg PO Q4H:PRN pain  
18.  Omeprazole 40 mg PO DAILY  
19.  Ondansetron 8 mg PO Q8H:PRN nausea  
20.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation  
21.  Prochlorperazine 10 mg PO Q8H:PRN nausea  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Abdominal pain
Ovarian Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted because you had worsening of 
your chronic abdominal pain. A CT scan and lab work was 
reassuring. We suspect the abdominal pain and bloating are side 
effects of your cancer. Also constipation is a contributor, and 
alternating between constipation and diarrhea with laxatives is 
making you exhausted. We gave you IV fluids initially. We 
increased your fentanyl patch and started you on simethicone. 
You will follow up with Dr. ___ for further 
management. We have also set up an appointment for you to see 
our gastroenterologists if you wish. if you get anxious, please 
use your Ativan. 

For constipation prevention and treatment:

Please take 200mg Colace twice a day
(senna gives you cramps so we are holding off on that)
Please take your miralax daily
Please take your dulcolax every other day.
If you go a day without having a bowel movement, the following 
day you should take 300mL of magnesium citrate also and keep 
using that daily until you do have a bowel movement. 
If two days go by without a bowel movement, you can give 
yourself an enema.

if you have diarrhea and cramping, please hold the bowel 
medications until that resolves.

We increased your narcotics (fentanyl) so very important you 
follow this bowel regimen to prevent constipation!

 
Followup Instructions:
___